US07576215B2
A mixture of 2-(trifluoromethyl)aniline(4.6 g, 28.8 mmol) and 2-benzoyl-3-ethoxy-acrylic acid ethyl ester 7.2 g, 28.8 mmol) in toluene (125 ml) was heated to reflux. After 18 hr, the reaction was cooled, concentrated and purified by column chromatography (eluent 10% EtOAc/hexane) to give 2-benzoyl-3-(2-trifluoromethyl-phenylamino)-acrylic acid ethyl ester (8.6 g, Yield=82%); MS (ESI) m/z 364(M+H)+; Anal Calcd for C19H16F3NO3: C, 62.81; H, 4.44; N, 3.85. Found: C, 62.87; H, 4.21; N, 3.76.

reactant | 2-(trifluoromethyl)aniline | 28.8 mmol, 4.6 g | FC(C1=C(N)C=CC=C1)(F)F | C7H6F3N
reactant | 2-benzoyl-3-ethoxy-acrylic acid ethyl ester | 28.8 mmol, 7.2 g | C(C)OC(C(=COCC)C(C1=CC=CC=C1)=O)=O | C14H16O4
solvent | toluene | 125 ml | C1(=CC=CC=C1)C | C7H8
product | 2-benzoyl-3-(2-trifluoromethyl-phenylamino)-acrylic acid ethyl ester | 8.6 g, Yield=82% | C(C)OC(C(=CNC1=C(C=CC=C1)C(F)(F)F)C(C1=CC=CC=C1)=O)=O | C19H16F3NO3
